US08835629B2
Preparation of 1-(4,6-dichloro-[1,3,5]-triazin-2-yl-amino)-imidazolidine-2,4-dione
An ice-cold suspension of 1-aminohydantoin hydrochloride (457 mg, 3.0 mmol), cyanuric chloride (500 mg, 2.73 mmol) and sodium bicarbonate (505 mg, 6 mmol) in acetonitrile (5 mL) was stirred under an atmosphere of nitrogen for 2 h and then stirred at room temperature for 20 h. The reaction mixture was evaporated to dryness under reduced pressure and the residue was extracted with ethyl acetate and the ethyl acetate was separated and dried (MgSO4). The crude product (770 mg) gave a single spot on thin layer chromatography [silica; CH2Cl2/MeOH (10:1)] and was used in the next step without further purification. NMR (CD3CN): δ=4.11 (s, 2H); 8.71 (s, 1H); 8.85 (s, 1H).

reactant | 1-aminohydantoin hydrochloride | 3.0 mmol, 457 mg | Cl.NN1C(=O)NC(=O)C1
reactant | cyanuric chloride | 2.73 mmol, 500 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium bicarbonate | 6 mmol, 505 mg | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(4,6-dichloro-[1,3,5]-triazin-2-yl-amino)-imidazolidine-2,4-dione | 770 mg | ClC1=NC(=NC(=N1)Cl)NN1C(NC(C1)=O)=O | C6H4Cl2N6O2
